US06214817B1
To a solution of diethyl 2,6-bis[(dimethoxy)methyl]-1 ,4-dihydropyridine-3,5-dicarboxylate (3.40 g, 9.10 mmol) in toluene (200 ml) was added activated manganese dioxide (3.96 g, 45.5 mmol) and the resulting mixture was heated to reflux for 2 hours. At this time another 3.96 g (45.5 mmol) of activated manganese dioxide was added and reflux was continued an additional 2 hours. The reaction was allowed to cool to room temperature, filtered through celite, and concentrated to afford 3.10 g (92% yield) of diethyl 2,6-bis[(dimethoxy)methyl]-3,5-pyridine dicarboxylate as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 8.29 (s, 1 H), 5.93 (s, 2H), 4.40 (q, J=7.2 Hz, 4 H), 3.48 (s, 12 H), 1.41 (t, J=7.2 Hz, 6 H). 13C NMR (75 MHz, CDCl3) dc 165.68 (s), 156.25 (s), 138.52 (d), 126.59 (d), 101.26 (d), 61.50 (t), 54.08 (q), 13.75 (q). MS (LR-CI) m/z 372 [M+H]+.

reactant | diethyl 2,6-bis[(dimethoxy)methyl]-1 ,4-dihydropyridine-3,5-dicarboxylate | 9.10 mmol, 3.40 g | COC(C=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C(OC)OC)OC | C17H27NO8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 45.5 mmol, 3.96 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 45.5 mmol, 3.96 g | [O-2].[O-2].[Mn+4]
product | diethyl 2,6-bis[(dimethoxy)methyl]-3,5-pyridine dicarboxylate | 3.10 g, 92% yield | COC(C1=NC(=C(C=C1C(=O)OCC)C(=O)OCC)C(OC)OC)OC | C17H25NO8
